US06974819B2
1-[-(3-Phenyl)propanoyl]-7-pyridin-4-yl-2,3-dihydroimidazo[1,2-a]pyrimidin-5(1H)-one
A suspension of 0.2 g (0.93 mmol) of 7-pyridin-4-yl-2,3-dihydroimidazo[1,2-a]pyrimidin-5(1H)-one in 5 ml of N,N-dimethylformamide was treated with 48 mg (1.20 mmol) of sodium hydride (60% suspension in mineral oil) and the resulting mixture was stirred at room temperature for 15 min and then cooled to 0° C. 0.251 g (1.49 mmol) of 3-phenylpropionyl chloride was added and the reaction mixture was stirred at room temperature during 18 h.

reactant | 7-pyridin-4-yl-2,3-dihydroimidazo[1,2-a]pyrimidin-5(1H)-one | 0.93 mmol, 0.2 g | N1=CC=C(C=C1)C=1N=C2N(C(C1)=O)CCN2 | C11H10N4O
reactant | sodium hydride | 1.20 mmol, 48 mg | [H-].[Na+]
reactant | 3-phenylpropionyl chloride | 1.49 mmol, 0.251 g | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-[-(3-Phenyl)propanoyl]-7-pyridin-4-yl-2,3-dihydroimidazo[1,2-a]pyrimidin-5(1H)-one | C1(=CC=CC=C1)CCC(=O)N1CCN2C1=NC(=CC2=O)C2=CC=NC=C2 | C20H18N4O2
